US07781439B2
Methyl 6-(2,4-dichlorophenyl)-5,7-dihydroxypyrazolo[1,5-a]pyrimidine-3-carboxylate
5.5 g of dimethyl 2-(2,4-dichlorophenyl)malonate and 2.8 g of methyl 3-aminopyrazole-4-carboxylate were mixed with 4 g of tri-n-butylamine and stirred at 185° C. for 3 h; the liberated methanol was distilled off during this operation. The mixture was then cooled and excess tri-n-butylamine was removed under reduced pressure. The resulting product was reacted crude, without further purification.

reactant | dimethyl 2-(2,4-dichlorophenyl)malonate | 5.5 g | ClC1=C(C=CC(=C1)Cl)C(C(=O)OC)C(=O)OC | C11H10Cl2O4
reactant | methyl 3-aminopyrazole-4-carboxylate | 2.8 g | NC1=NNC=C1C(=O)OC | C5H7N3O2
reactant | tri-n-butylamine | 4 g | C(CCC)N(CCCC)CCCC | C12H27N
product | Methyl 6-(2,4-dichlorophenyl)-5,7-dihydroxypyrazolo[1,5-a]pyrimidine-3-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=2N(C1O)N=CC2C(=O)OC)O | C14H9Cl2N3O4
